US09108903B2
A solution of 2-fluoro-4-(trifluoromethyl)benzoyl chloride (3 g, 13.24 mmol) in dichloromethane (27.6 mL) was added dropwise to a mixture of methyl 4-aminobenzoate (2.0 g, 13.24 mmol), pyridine (3.21 mL, 39.72 mmol) and dichloromethane (41.4 mL) at 0° C. The reaction was stirred and allowed to warm up to room temperature over 2 hours. To the reaction, water (30 mL) was added. The solid was isolated by filtration, washed with water (2×30 mL) and hexane (2×30 mL) to yield methyl 4-[[2-fluoro-4-(trifluoromethyl)benzoyl]amino]benzoate (3.811 g, 84%) as a white solid. ESI-MS m/z calc. 341.07, found 342.2 (M+1)+; Retention time: 1.64 minutes (3 minutes run). 1H NMR (400 MHz, DMSO-d6) δ 10.97 (s, 1H), 8.02-7.96 (m, 2H), 7.96-7.89 (m, 2H), 7.89-7.83 (m, 2H), 7.76 (dd, J=8.0, 1.6 Hz, 1H), 3.85 (s, 3H) ppm.

reactant | 2-fluoro-4-(trifluoromethyl)benzoyl chloride | 13.24 mmol, 3 g | FC1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF4O
reactant | methyl 4-aminobenzoate | 13.24 mmol, 2.0 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | pyridine | 39.72 mmol, 3.21 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 30 mL | O | H2O
solvent | dichloromethane | 27.6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 41.4 mL | ClCCl | CH2Cl2
product | methyl 4-[[2-fluoro-4-(trifluoromethyl)benzoyl]amino]benzoate | 3.811 g, 84% | FC1=C(C(=O)NC2=CC=C(C(=O)OC)C=C2)C=CC(=C1)C(F)(F)F | C16H11F4NO3
